US04141984
N-[5-(2-benzothiazolyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide
A 4.2 g. portion of 1-[(2-benzothiazolyl)carbonyl]-4-(2,6-dimethoxybenzoyl)thiosemicarbazide was added dropwise with stirring to 16 g. of methanesulfonic acid. The product was 2.6 g. of N-[5-(2-benzothiazolyl-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide, m.p. > 260°.

reactant | 1-[(2-benzothiazolyl)carbonyl]-4-(2,6-dimethoxybenzoyl)thiosemicarbazide | S1C(=NC2=C1C=CC=C2)C(=O)NNC(=S)NC(C2=C(C=CC=C2OC)OC)=O | C18H16N4O4S2
reactant | methanesulfonic acid | CS(=O)(=O)O | CH4O3S
reactant | 5-(2-benzothiazolyl-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide | S1C(=NC2=C1C=CC=C2)C2(SC=NN2)C=2C=CC(=C(C(=O)N)C2OC)OC | C18H16N4O3S2
product | N-[5-(2-benzothiazolyl)-1,3,4-thiadiazol-2-yl]-2,6-dimethoxybenzamide | S1C(=NC2=C1C=CC=C2)C2=NN=C(S2)NC(C2=C(C=CC=C2OC)OC)=O | C18H14N4O3S2
